US03957666
Preparation of 3-(m-phenoxyphenoxy)-3'-[m-(m-phenoxyphenoxy)phenoxy]biphenyl
A 500 ml. reaction flask equipped with stirrer, condenser and Dean-Stark trap was charged with 59.8 g. (0.215 mole) of m-(m-phenoxyphenoxy)phenol, 50 ml. of toluene and 7.2 g. (0.129 mole) of potassium hydroxide. Water was azeotroped from the system and 100 ml. of diglyme added followed by dropwise addition of 20 g. (0.053 mole) of 3-chloro-3'-(m-phenoxyphenoxy)biphenyl over a 30 min. period. To this mixture 2.5 g. of cuprous chloride and 0.5 g. of copper powder was added. Diglyme was distilled from the system and the resulting mixture heated at 230°-240°C. for 18 hours. At the end of this time, 250 ml. of ether was added to the cooled mixture and the resulting slurry centrifuged to remove salts. The ethereal solution was washed thoroughly with aqueous base, water and then dried over anhydrous magnesium sulfate. The ether was removed under vacuum, and the resulting oil was distilled to give 24.4 g. of the desired product, bp 340°/ 0.05 mm., nD25 1.6510.

reactant | m-(m-phenoxyphenoxy)phenol | 0.215 mole | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)O)C=CC1 | C18H14O3
reactant | potassium hydroxide | 0.129 mole | [OH-].[K+]
reactant | 3-chloro-3'-(m-phenoxyphenoxy)biphenyl | 0.053 mole | ClC=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H17ClO2
catalyst | copper | [Cu] | Cu
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(m-phenoxyphenoxy)-3'-[m-(m-phenoxyphenoxy)phenoxy]biphenyl | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)C2=CC(=CC=C2)OC2=CC(=CC=C2)OC2=CC(=CC=C2)OC2=CC=CC=C2)C=CC1 | C42H30O5
